US09169259B2
6-Chloro-N-(5,6-dimethoxypyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine (611 mg, 2 mmol), ethyl 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (828 mg, 3.00 mmol), potassium phosphate (1.06 g, 5.00 mmol) and X-phos (381 mg, 800 μmol) were combined with dioxane (29.4 ml) and water (2.94 ml) to give a light yellow suspension. The mixture was evacuated and back-filled with argon three times, then Pd2(dba)3 (183 mg, 200 μmol) was added and the mixture heated to 125° C. in a microwave for 60 min. The mixture was filtered and the filtrate concentrated. The residue was purified by chromatography (silica, 160 g, 20% to 50% EtOAc in hexanes, gradient over 20 min) to give ethyl 3-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoate (284 mg, 677 μmol, 34%) as an off-white powder. 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 8.55-8.68 (m, 2H) 8.20 (dd, J=13.79, 7.74 Hz, 2H) 7.96 (d, J=1.51 Hz, 1H) 7.52-7.71 (m, 2H) 7.19 (d, J=8.31 Hz, 1H) 6.73 (d, J=8.31 Hz, 1H) 4.45 (q, J=7.18 Hz, 2H) 4.20 (s, 3H) 3.82-3.97 (m, 3H) 1.44 (t, J=7.18 Hz, 3H); LC/MS: 420.2 [MH]+.

reactant | 6-Chloro-N-(5,6-dimethoxypyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine | 2 mmol, 611 mg | ClC=1C=C(C=2N(N1)C=CN2)NC2=NC(=C(C=C2)OC)OC | C13H12ClN5O2
reactant | ethyl 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 3.00 mmol, 828 mg | CC1(OB(OC1(C)C)C=1C=C(C(=O)OCC)C=CC1)C | C15H21BO4
reactant | potassium phosphate | 5.00 mmol, 1.06 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | X-phos | 800 μmol, 381 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
catalyst | Pd2(dba)3 | 200 μmol, 183 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 2.94 ml | O | H2O
solvent | dioxane | 29.4 ml | O1CCOCC1 | C4H8O2
product | ethyl 3-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoate | 677 μmol, 284 mg, 34% | COC=1C=CC(=NC1OC)NC=1C=2N(N=C(C1)C=1C=C(C(=O)OCC)C=CC1)C=CN2 | C22H21N5O4
